US07915300B2
(5-Bromo-4-methyl-thiophen-2-yl)-morpholin-4-yl-methanone (1.78 mmol) was added to a flask containing 1M THF.BH3 complex in THF (4.45 mmol). Reaction was stirred at reflux for 2.5 h under N2. Methanol was then added until gas evolution ceased, followed by 10 ml of 1M NaOH and the reaction stirred at reflux for a further 7 h. The mixture was cooled to room temperature and extracted with EtOAc. This extract was concentrated in vacuo and the residue taken up in 1M HCl and washed with EtOAc. The acid layer was then basified with 1M NaOH and extracted back into EtOAc. Removal of solvent gave 4-(5-Bromo-4-methyl-thiophen-2-ylmethyl)-morpholine as a colourless oil: m/z in MS ES+=276, 278 [M+H]+, 0.98 mmol, 55%.

reactant | (5-Bromo-4-methyl-thiophen-2-yl)-morpholin-4-yl-methanone | 1.78 mmol | BrC1=C(C=C(S1)C(=O)N1CCOCC1)C | C10H12BrNO2S
reactant | THF | 1M | C1CCOC1 | C4H8O
reactant | THF | 4.45 mmol | C1CCOC1 | C4H8O
reactant | NaOH | 1M, 10 ml | [OH-].[Na+]
solvent | Methanol | CO | CH4O
product | 4-(5-Bromo-4-methyl-thiophen-2-ylmethyl)-morpholine | BrC1=C(C=C(S1)CN1CCOCC1)C | C10H14BrNOS
